US05760032
2-Chlorophenyl isocyanate and methyl (2-(3-aminomethyl-5-methyl[1,2,4]triazol-4-yl)-3-(2-chlorobenzoyl)thiophen-5-yl)acetate are reacted to give methyl (3-(2-chlorobenzoyl)-2-(3-(3-(2-chlorophenyl)ureidomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)acetate.

reactant | 2-Chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | methyl (2-(3-aminomethyl-5-methyl[1,2,4]triazol-4-yl)-3-(2-chlorobenzoyl)thiophen-5-yl)acetate | NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC(=O)OC)C | C18H17ClN4O3S
product | methyl (3-(2-chlorobenzoyl)-2-(3-(3-(2-chlorophenyl)ureidomethyl)-5-methyl[1,2,4]triazol-4-yl)thiophen-5-yl)acetate | ClC1=C(C(=O)C2=C(SC(=C2)CC(=O)OC)N2C(=NN=C2C)CNC(=O)NC2=C(C=CC=C2)Cl)C=CC=C1 | C25H21Cl2N5O4S
